US07977371B2
2-Aminocarbonylamino-5-(2-cyanomethyloxyphenyl)pyrrole-3-carboxamide (Compound No. 4-1)
A suspension of 2-aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide (Compound No. 3-1, 52 mg, 0.20 mmol), potassium carbonate (43 mg, 0.31 mmol), bromoacetonitrile (15 μL, 0.22 mmol) in anhydrous N,N-dimethylformamide (1 mL) was stirred at 60° C. for 2.5 hours. After cooling to room temperature, water (10 mL) was added thereto and the precipitated solid was filtered off. The obtained solid was dried under reduced pressure to give the target compound (32 mg) as a pale brown solid (Yield 54%).

reactant | 2-aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide | 0.20 mmol, 52 mg | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)O | C12H12N4O3
reactant | potassium carbonate | 0.31 mmol, 43 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 0.22 mmol, 15 μL | BrCC#N | C2H2BrN
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-Aminocarbonylamino-5-(2-cyanomethyloxyphenyl)pyrrole-3-carboxamide | 32 mg, Yield 54% | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)OCC#N | C14H13N5O3
